Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
ped struck, ___ with multiple trauma injuries, including 
liver lac,  splenic lac, pelvic fxr, R rib ___ ___, ___ 
___, SAH x2, L adrenal injury w/ RP hematoma, R tib fxr 
 
Major Surgical or Invasive Procedure:
___:
Endotracheal tube exchange under general
anesthesia.
___. 
1. Right thoracotomy.
2. Partial vertebrectomy at T4-5.
3. Fusion T4-5.
4. Anterior instrumentation T4-5.
5. Autografts.
6. Vertebroplasty T4-5.

___:
1. C7 to T9 fusion.
2. Multiple thoracic laminotomies.
3. Posterior approach and reduction of dislocation.
4. Instrumentation C7 to T9.
5. Autograft.

___:
1. Open reduction, internal fixation of right sacroiliac
    fracture.
2. Open reduction, internal fixation, left sacroiliac
    dissociation.
3. Open reduction, internal fixation right anterior ring
    fracture.
4. Open reduction, internal fixation, left pelvic ring
    fracture.
5. Open reduction, internal fixation, proximal tibia with
    13 hole ___ system and lateral incision.
6. Open reduction, internal fixation, distal tibia fracture
    with medial plica plating and closed treatment of
    fibular shaft fracture.

 
History of Present Illness:
This is a ___ year old female who was ped struck at approximately 
___ MPH. She was seen in the ___ and evaluated and found to 
have multiple injuries including traumatic SAH x3, multiple 
liver lacs grade ___, grade 1 splenic lac, sacrum ___, multiple 
pubic rami ___, pelvic hematoma with active extravasation, T4-T5 
anterolisthesis, RP hematoma, multiple bilateral rib fractures. 
She also had a facial laceration whose repair was delayed due to 
acuity. She has a suspected R knee injury but imaging was 
deferred ___ acuity. In the ED the patient was found to have 
extremely labile pressures. She was transferred up to the TICU 
for further eval.  
On evaluation in the TICU the patient was again found to have 
labile blood pressures ranging from 70-150 SBP. An A-line was 
placed and she was found to have unstable blood pressures. ACS 
consulted ___ and the patient was intubated for the procedure. 
A-line and CVL were placed. The patient's crit was found to 
downtrend from the ___ to 25. Massive transfusion protocol was 
initiated and she was given 4U pRBC and 2U FFP.  

 
Past Medical History:
PMH: pt denies  
PSH: ovarian cystectomy  

 
Social History:
___
Family History:
unknown
 
Physical Exam:
PHYSICAL EXAMINATION- Upon admission ___
Temp: reviewed BP: 80's-110 SBP
 
Constitutional: GCS 15
HEENT: 2 cm and 4 cm lacerations beneath the chin. no
depressed skull fracture. Mid face stable. No dental trauma.
teeth occlude normally, Pupils equal, round and reactive to
light, Extraocular muscles intact
Oropharynx within normal limits, teeth align
Chest: Clear to auscultation with coarse BS bilat with TTP
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, non-tender, Nondistended
GU/Flank: No costovertebral angle tenderness
Extr/Back: No cyanosis, clubbing or edema, TTP over pelvis,
pelvis stable
Skin: Roadrash ant chest wall, Warm and dry
Neuro: Speech fluent, moves all extremities, no gross motor
deficits
Psych: Normal mood, Normal mentation
___: No petechiae

 
Pertinent Results:
___ 11:47PM   TYPE-ART TEMP-34.9 PO2-149* PCO2-42 PH-7.32* 
TOTAL CO2-23 BASE XS--4 INTUBATED-INTUBATED
___ 11:47PM   GLUCOSE-132* LACTATE-2.1*
___ 11:47PM   freeCa-0.88*
___:35PM   HCT-34.7*#
___ 09:58PM   TYPE-ART PO2-86 PCO2-50* PH-7.25* TOTAL 
CO2-23 BASE XS--5
___ 09:58PM   GLUCOSE-167* LACTATE-2.4* NA+-135 K+-3.5 
CL--109*
___ 09:58PM   HGB-8.7* calcHCT-26
___ 09:58PM   freeCa-1.02*
___ 09:49PM   GLUCOSE-172* UREA N-24* CREAT-0.6 SODIUM-139 
POTASSIUM-3.5 CHLORIDE-113* TOTAL CO2-20* ANION GAP-10
___ 09:49PM   CALCIUM-6.1* PHOSPHATE-3.1 MAGNESIUM-1.5*
___ 09:49PM   HCT-25.4*#
___ 07:40PM   GLUCOSE-119* LACTATE-2.3* NA+-139 K+-4.0 
CL--103 TCO2-24
___ 07:35PM   UREA N-27* CREAT-0.9
___ 07:35PM   estGFR-Using this
___ 07:35PM   LIPASE-184*
___ 07:35PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:35PM   WBC-9.3 RBC-4.87 HGB-14.6 HCT-42.5 MCV-87 
MCH-29.9 MCHC-34.3 RDW-14.1
___ 07:35PM   PLT COUNT-200
___ 07:35PM   ___ PTT-34.2 ___
___ 07:35PM   ___fter the initial trauma workup in the ED on ___, the 
patient arrived to the ICU in critical condition with the 
following injury burden: 
* small SAH x2  
* L temporal bone ___ at TMJ  
* external auditory canal hematoma  
* multiple grade ___ liver lacercation  
* grade 1 splenic laceration  
* open book pelvic fracture  
* L adrenal injury w/ small RP hematoma  
* T4-5 spine dislocation  
* L clavicular ___, R scapular ___  
* sacral ___ with associated hematoma  
* R ankle tib/fib fxs  

The patient was sent to ___ given her open book pelvic fracture, 
however, no active bleed was identified.  On HD#2, an MRI spine 
was performed which demonstrated T4-T5 instability, ligamentous 
disruption, spinal syrinx, which spine reported was operative.  
On ___ the plan was to take the patient to the OR with 
thoracics for an anterior approach to the spine.  Unfortunately, 
the patient had poor oxygenating, PEEP requirements rising and 
so surgery was deferred. Blood cultures at that time also began 
growing GPCs, and so Vanc/Zosyn was started. On ___, the 
patient was transfused 1 uPRBCs for Hct of 21 with appropriate 
response. On ___, it was again planned to take the patient to 
the operating room for anterior approach to repair the patients 
spine, however, once a double lumen tube was placed, the patient 
rapidly desatted to the ___ and so surgical intervention was 
once again aborted given concern for pt's tolerance of one lung 
ventilation. DLT left in place (both lumens opening in trachea) 
given concern for difficult re-intubation. Dose of decadron 
given for laryngeal edema was given and the patient was started 
on a lasix gtt and the patient was paralyzed on Roc for 2 days.  
On ___, the patient was stable enough to be taken back to the 
operating room to exhcange her double lumen tube for a 7.5 ETT 
to allow for better respiratory toilet while the patient is more 
stable for her T-spine surgery.  On ___, the patient went to 
the operating room for an anterior approach to her T ___ right thoracotamy approach.  On ___, the patient 
went back to the OR for a posterior approach to her spine 
fusion.  On ___, an IVF filter was placed given her exptected 
prolonged immobility.  And on ___, she went to the OR with 
ortho for a pelvic ring ORIF and R ___ tibia ORIF.  
Pre-operatively, her Hct was 19, so she received 2uPRBCs.  Over 
the prior several days, the patient had been having daily 
fevers, and had been placed on ceftriaxone emperically.  Post-op 
on ___, the patients antibiotic regimen was broadened to 
Vanc/Cefepime for her continued fevers.  On ___, the patient 
was extubated without any issues. She continued to improve over 
the next few days in the ICU. A CXR on ___ noted an improving 
left retrocardiac opacification and apparent resolution of a 
small left pleural effusion. Antibiotics were completed for HCAP 
treatment (ended ___. She failed a formal speech and swallow 
evaluation on that day ___ and so was continued NPO with tube 
feeds with plans to reassess later in the week. She did require 
some high ___ oxygen and non-invasive BiPap on ___ and ___ for 
improved breathing/oxygenation. At that point the screening 
process for an LTAC and rehab was begun. She was also started on 
Seroquel at that time for agitation especially at night. 

She was transferred to the floor on ___ for continued care and 
management. Seroquel was increased due to continued agitation at 
night. Low dose Coumadin was begun for treatment of long-term 
immobilization and hx of multiple major fractures. Foley was 
d/c'd on ___. She continued to have episodes of agitation 
overnight, and was started on Xanax on ___. She also failed to 
void and foley was replaced on ___ the patient was 
doing well and was ready to be discharged to rehabilitation 
facility.
 
Medications on Admission:
1. Sertraline 150 mg PO DAILY 
2. ALPRAZolam 0.5 mg PO 5X/DAY 

 
Discharge Medications:
1. ALPRAZolam 0.5 mg PO 5X/DAY 
2. Sertraline 150 mg PO DAILY 
3. Acetaminophen 1000 mg PO Q6H:PRN pain, fever 
do not exceed 4g in 24 hour period 
4. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing 
5. Artificial Tear Ointment 1 Appl BOTH EYES PRN paralysed 
6. Bisacodyl 10 mg PO/PR DAILY constipation 
stop taking if having loose stool 
7. Docusate Sodium (Liquid) 100 mg PO BID 
stop taking if having loose stool 
8. Guaifenesin ___ mL PO Q6H:PRN cough 
9. Hydrochlorothiazide 25 mg PO DAILY 
10. HYDROmorphone (Dilaudid) 0.25-1 mg IV Q4H:PRN Breakthrough 
pain 
11. Milk of Magnesia 30 mL PO Q6H:PRN constipaton 
12. OxycoDONE Liquid ___ mg PO Q4H:PRN Pain 
13. QUEtiapine Fumarate 25 mg PO QAM 
14. QUEtiapine Fumarate 100 mg PO QHS 
15. Senna 8.6 mg PO BID 
stop taking if having loose stool 
16. Tamsulosin 0.8 mg PO DAILY 
17. Warfarin 1 mg PO DAILY16 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Pelvic ring injury with right sacral fracture, left sacroiliac 
dissociation, right anterior column (rami)fracture and left 
anterior column (rami) fracture.
Right proximal tibia fracture.
Right distal tibia and fibula fracture.
Traumatic SAH x3
Multiple liver lacerations grade ___
Grade 1 splenic laceration 
T4-T5 anterolisthesis
RP hematoma 
Multiple bilateral rib fractures.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You came to the hospital on ___ after being hit by a car. 
You were found to have multiple injuries in the emergency 
department that required surgeries. The multiple injuries were 
traumatic SAH x3, multiple liver lacerations grade ___, grade 1 
splenic laceration, sacrum fracture, multiple pubic rami 
fracture, pelvic hematoma with active extravasation, T4-T5 
anterolisthesis, RP hematoma and multiple bilateral rib 
fractures. You also had a  facial laceration. In the emergency 
department you were found to have extremely labile pressures. 
You were transferred up to the TICU 
for further evaluation.  

On evaluation in the TICU you were again found to have labile 
blood pressures ranging from 70-150 SBP. An A-line was placed 
and you were found to have unstable blood pressures. The Acute 
Care Surgical team consulted interventional radiology and you 
were intubated for the procedure of A-line and CVL placement. 
You also needed a blood transfusion which was initiated and you 
were given 4units of packed red blood cells and 2 units of fresh 
frozen plasma. You responded well to this.

You needed a surgery for your hip, back and right leg. You also 
had an IVC filter placed. 

After your surgeries you were transferred to the floor for 
further evaluation, observation and monitoring. You have been 
seen by physical therapy and the orthopedic surgeon has followed 
up with you regarding the surgery and expected post surgical 
protocol.   
 
You are now doing better and are ready to be discharged to a 
rehabilitation facility to continue your recuperation. 
We have scheduled follow up appointments for you as below. 
Please do not hesitate to call your doctor.   
 

 
Followup Instructions:
___